US07476677B2
(3-iodophenyl)(isocyano)methyl 4-methylphenyl sulfone
POCl3 (3.05 mL) was added to a stirred solution of {(3-iodophenyl)[(4-methylphenyl)sulfonyl]methyl}formamide (6.23 g) in dry THF (35 mL) at 25° C. and stirred for 5 minutes. The reaction mixture was cooled to 0° C. and Et3N (13.7 mL) was added dropwise over 45 minutes, keeping the internal temperature below 10° C. The reaction mixture was allowed to stir at 5-10° C. for a further 45 minutes. EtOAc (140 mL) and water (140 mL) was added and then stirred for 5 minutes. The organic phase was washed with water (2×140 mL), NaHCO3 (sat. aq., 140 mL) and then brine (140 mL). The organic phase was concentrated in vacuo to afford a dark brown gum. This was then passed through a pad of silica washing with DCM and concentrated in vacuo to afford a dark brown gum (ca. 70% pure 3.5 g, 58%);

reactant | POCl3 | 3.05 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | {(3-iodophenyl)[(4-methylphenyl)sulfonyl]methyl}formamide | 6.23 g | IC=1C=C(C=CC1)C(S(=O)(=O)C1=CC=C(C=C1)C)NC=O | C15H14INO3S
reactant | Et3N | 13.7 mL | CCN(CC)CC | C6H15N
reactant | EtOAc | 140 mL | CCOC(=O)C | C4H8O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 140 mL | O | H2O
product | (3-iodophenyl)(isocyano)methyl 4-methylphenyl sulfone | CC1=CC=C(C=C1)S(=O)(=O)C([N+]#[C-])C1=CC(=CC=C1)I | C15H12INO2S
